US08461176B2
Methyl 6-chloro-2-[2-cyano-2-({[4-(trifluoromethoxy)phenyl]carbonyl}-amino)propyl]-2H-benzotriazole-4-carboxylate (compound No 1.084)
A 2 molar ether solution of trimethylsilyldiazomethane was added to 6-chloro-2-[2-cyano-2-({[4-(trifluoromethoxy)phenyl]carbonyl}amino)-propyl]-2H-benzotriazole-4-carboxylic acid (100 mg) dissolved in a ten to 1 one mixture of THF and methanol (2 mL). After overnight at room temperature, the mixture was concentrated under reduced pressure to give a residue that was purified by chromatography (SiO2, heptane/EA) to afford the title compound as a white solid (42 mg, 40%). MS (ES): M/Z [M+H]=482. 1H NMR: (400 MHz, DMSO-d6): 1.75 (s, 3H), 3.78 (s, 3H), 5.44 (d, J=13.3 Hz, 1H), 5.58 (d, J=13.3 Hz, 1H), 7.50 (d, J=8.1 Hz, 2H), 7.92 (d, J=8.8 Hz, 2H), 8.02 (d, J=1.9 Hz, 1H), 8.52 (d, J=1.9 Hz, 1H) and 8.87 (s, 1H). 19F NMR (376 MHz, DMSO-d6): −57.1 (s, 3F).

reactant | ether | 2 molar | CCOCC | C4H10O
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 6-chloro-2-[2-cyano-2-({[4-(trifluoromethoxy)phenyl]carbonyl}amino)-propyl]-2H-benzotriazole-4-carboxylic acid | 100 mg | ClC=1C=C(C=2C(=NN(N2)CC(C)(NC(=O)C2=CC=C(C=C2)OC(F)(F)F)C#N)C1)C(=O)O | C19H13ClF3N5O4
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | Methyl 6-chloro-2-[2-cyano-2-({[4-(trifluoromethoxy)phenyl]carbonyl}-amino)propyl]-2H-benzotriazole-4-carboxylate | 42 mg, 40% | ClC=1C=C(C=2C(=NN(N2)CC(C)(NC(=O)C2=CC=C(C=C2)OC(F)(F)F)C#N)C1)C(=O)OC | C20H15ClF3N5O4
